US08633173B2
5-{-4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}[1,2,4]triazolo[1,5-a]pyridin-2-amine (50 mg, 0.140 mmol) and 1-bromo-4-methoxy benzene (29 mg, 0.154 mmol) were combined in a manner analogous to Example 77 to yield 5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-N-(4-methoxyphenyl)[1,2,4]triazolo[1,5-a]pyridin-2-amine (28 mg, 42%) as a beige solid. The material was purified via trituration with methanol. MP=241° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.37 (s, 1H), 8.03 (d, J=8.1 Hz, 2H), 7.51-7.67 (m, 6H), 7.17 (d, J=6.4 Hz, 1H), 6.85 (d, J=8.6 Hz, 2H), 3.80 (s, 2H), 3.69 (s, 3H), 3.15 (br s, 4H), 2.92 (br s, 4H). MS=464 (MH)+.

reactant | 5-{-4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}[1,2,4]triazolo[1,5-a]pyridin-2-amine | 0.140 mmol, 50 mg | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)N)=O | C17H19N5O2S
reactant | 1-bromo-4-methoxy benzene | 0.154 mmol, 29 mg | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 5-{4-[(1,1-dioxidothiomorpholin-4-yl)methyl]phenyl}-N-(4-methoxyphenyl)[1,2,4]triazolo[1,5-a]pyridin-2-amine | 28 mg, 42% | O=S1(CCN(CC1)CC1=CC=C(C=C1)C1=CC=CC=2N1N=C(N2)NC2=CC=C(C=C2)OC)=O | C24H25N5O3S
